US07863332B2
8.17 g (0.375 mol, 3 eq) of lithium borohydride are added to a solution of 41.78 g (0.125 mol, 1 eq) of methyl 3-butoxy-4-iodobenzoate in 210 ml of tetrahydrofuran. The reaction medium is heated at 60° C. for 2 hours and then hydrolyzed cautiously in ice-cold saturated ammonium chloride solution. The reaction medium is neutralized with concentrated hydrochloric acid and then extracted with ethyl acetate. The organic phases are washed with water and dried over magnesium sulfate. The solvent is evaporated off and 38.31 g of (3-butoxy-4-iodophenyl)methanol are obtained in the form of a whitish oil. Yield=100%

reactant | lithium borohydride | 0.375 mol, 8.17 g, 3 eq | [BH4-].[Li+]
reactant | methyl 3-butoxy-4-iodobenzoate | 0.125 mol, 41.78 g, 1 eq | C(CCC)OC=1C=C(C(=O)OC)C=CC1I | C12H15IO3
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 210 ml | O1CCCC1 | C4H8O
product | (3-butoxy-4-iodophenyl)methanol | 38.31 g, Yield=100% | C(CCC)OC=1C=C(C=CC1I)CO | C11H15IO2
